US03957492
2. Synthesis of N-Morpholinylmethylmethacrylamide
In a 300 cc capacity round bottom flask equipped with a stirrer were put 57.5 g (0.5 mole) of N-methylolmethacrylamide and 50 cc of water and, as a polymerization inhibitor, 500 mg of hydroquinone. On the other hand, 43 g (0.5 mole) of morpholine were gradually added thereto while stirring. Afterwards, the contents were stirred for 1 hour at 50°-60°C. Finally, the reaction mixture was concentrated and then was recrystallized from ethyl acetate. m.p.; 78.0°C. Yield: 48.3 g (52.5%).

reactant | N-methylolmethacrylamide | 0.5 mole, 57.5 g | C(O)NC(C(=C)C)=O | C5H9NO2
reactant | hydroquinone | 500 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | morpholine | 0.5 mole, 43 g | N1CCOCC1 | C4H9NO
solvent | water | 50 cc | O | H2O
product | N-Morpholinylmethylmethacrylamide | N1(CCOCC1)CNC(C(=C)C)=O | C9H16N2O2
